US04173634
A. 2-Benzylidene-1-tetralone oxide
Ten grams (0.043 mole) of 2-benzylidene-1-tetralone (prepared as described in U.S. Pat. No. 3,926,988) is dissolved in 650 ml of MeOH at 35°, stirred, and treated with 10.5 g (0.092 mole) of 30% H2O2, followed by 10.5 ml (0.042 mole) of 16% NaOH solution while maintaining the temperature at 35°-36°. After stirring for 4 hours at room temperature, the solution is concentrated to approximately 50 ml on a rotary evaporator (high vacuum, low heat), diluted with 250 ml of cold H2O (an oil separates), extracted with ether (200 ml; then 4×100 ml), the combined ether layers dried (MgSO4), and the solvent evaporated to give 11.0 g (100%) of a semi-crystalline residue. Crystallization (of 10.6 g) from 55 ml of (i-Pr)2O gives 8.3 g (80%) of colorless solid; m.p. 71°-73°. Lit m.p. 77°-77.5° [JACS, 79, 232 (1957)].

reactant | 2-benzylidene-1-tetralone | 0.043 mole, Ten grams | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2CC1)=O | C17H14O
reactant | H2O2 | 0.092 mole, 10.5 g | OO | H2O2
reactant | NaOH | 0.042 mole, 10.5 ml | [OH-].[Na+]
solvent | MeOH | 650 ml | CO | CH4O
product | 2-Benzylidene-1-tetralone oxide | 11.0 g, 100% | C(C1=CC=CC=C1)=C1C(C2=CC=CC3C2(CC1)O3)=O | C17H14O2
